US08207205B2
Ethyl 5-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-3-carboxylate (Compound C)
N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.32 g, 10 mmol) was added in one portion to a stirred solution of ethyl 2-amino-2-(hydroxyimino)acetate (1.32 g, 10 mmol) plus 3,5-dibromo-4-hydroxybenzoic acid (2.95 g, 10 mmol) in pyridine (20 mL), the resulting solution was stirred at room temperature for 2 h and then at 90° C. for 5 h. After standing at room temperature overnight the pyridine was evaporated in vacuo and the residue was purified by flash chromatography (silica gel, 10% ethyl acetate/dichloromethane) to give the title compound (0.48 g, 12%) as a colourless solid. 1H NMR δ (ppm) (DMSO-d6): 1.48 (3H, t), 4.47 (2H, d), 8.13 (2H, s), 11.54 (1H, s, br).

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 10 mmol, 1.32 g | Cl.CN(CCCN=C=NCC)C
reactant | ethyl 2-amino-2-(hydroxyimino)acetate | 10 mmol, 1.32 g | NC(C(=O)OCC)=NO | C4H8N2O3
reactant | 3,5-dibromo-4-hydroxybenzoic acid | 10 mmol, 2.95 g | BrC=1C=C(C(=O)O)C=C(C1O)Br | C7H4Br2O3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 5-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-3-carboxylate | 0.48 g, 12% | BrC=1C=C(C=C(C1O)Br)C1=NC(=NO1)C(=O)OCC | C11H8Br2N2O4
